US06977263B2
Ethyl 6-chloroquinoline-3-carboxylate (0.19 g, 0.81 mmol) was saponified by treatment with dioxane (10 ml) and 10% aqueous sodium hydroxide (10 ml) at reflux for 3 hours. The dioxane was removed under vacuo; the aqueous solution remaining was acidified with HCl. The precipitated product was collected and washed with water to isolate 6-chloroquinoline-3-carboxylic acid as an off-white solid (0.14 g, 0.67 mmol). 1H NMR [(CD3OD), 300 MHz]: δ 9.35 (s, 1H), 8.95 (s, 1H), 8.17 (s, 1H), 8.1 (d, 2H), 7.87 (d, 1H).

reactant | Ethyl 6-chloroquinoline-3-carboxylate | 0.81 mmol, 0.19 g | ClC=1C=C2C=C(C=NC2=CC1)C(=O)OCC | C12H10ClNO2
reactant | sodium hydroxide | 10 ml | [OH-].[Na+]
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 6-chloroquinoline-3-carboxylic acid | 0.67 mmol, 0.14 g | ClC=1C=C2C=C(C=NC2=CC1)C(=O)O | C10H6ClNO2
